US06916819B2
A mixture of 4-amino-6-isopropyl-3-nitro-1H-pyridin-2-one (555 mg, 2.81 mmol) in POCl3 (10 mL) is stirred at reflux under N2 for 1.5 h. After cooling, the solution is concentrated in vacuo. The reaction flask is then placed in an ice bath, and crushed ice (˜20 g) is added to the residue. The mixture is swirled vigorously for several minutes and then stirred at room temperature for 30 min. The mixture is then extracted with EtOAc. The extract is washed with an additional 20 mL of H2O. The aqueous washes are reextracted once with EtOAc, and the combined extracts are dried over Na2SO4 and concentrated, yielding 2-chloro-6-isopropyl-pyridin-4-ylamine as an orange oil. This material is used without further purification. 1H NMR (DMSO-d6, 300 MHz) δ 7.27 (br s, 2H), 6.65 (s, 1H), 2.77 (sept, J=6.9 Hz, 1H), 1.13 (d, J=6.9 Hz, 6H) ppm.

reactant | 4-amino-6-isopropyl-3-nitro-1H-pyridin-2-one | 2.81 mmol, 555 mg | NC1=C(C(NC(=C1)C(C)C)=O)[N+](=O)[O-] | C8H11N3O3
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-6-isopropyl-pyridin-4-ylamine | ClC1=NC(=CC(=C1)N)C(C)C | C8H11ClN2
